US04684732
Glacial acetic acid (14 ml) was added to 5.32 g (0.02 mole) of 4,5,6-triethoxyphthalide. Into the reaction mixture on a water bath at 30-35° C., 14 ml of fuming nitric acid, d=1.52, was gradually added dropwise over a time period of 9 hours. After completion of the addition, the reaction mixture was allowed to stand overnight at room temperature and thereafter 80 ml of water was added to deposit crystals. The crystals were filtered out, washed thoroughly with water and dried. There was obtained 2.20 g of 4,5,6-triethoxy-7-nitrophthalide having a melting point of 82.5-84.5° C. with a yield of 35%.

reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
reactant | 4,5,6-triethoxyphthalide | 0.02 mole, 5.32 g | C(C)OC1=C2COC(=O)C2=CC(=C1OCC)OCC | C14H18O5
reactant | nitric acid | 14 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 80 ml | O | H2O
product | 4,5,6-triethoxy-7-nitrophthalide | 2.20 g, yield of 35% | C(C)OC1=C2COC(=O)C2=C(C(=C1OCC)OCC)[N+](=O)[O-] | C14H17NO7
